US06090753
To a mixed solution of 8.0 g (97.2 mmol) of sodium acetate and 50 ml of water was added under ice cooling 6.6 g (24.3 mmol) of 1,1-dibromo-3,3,3-trifluoroacetone, and the reaction was allowed to proceed at 80° C. for 30 minutes. Then, the reaction mixture was cooled to 0° C., to which 4.4 g (18.7 mmol) of 7-fluoro-6-hydrazino-4-propargyl-2H-1,4-benzoxazin-3-one was added, and the reaction mixture was stirred at room temperature for 2 hours. The precipitated crystals were collected by filtration, washed twice with 10 ml of water, and dried, which afforded 6.3 g (18.37 mmol) of 7-fluoro-6-trifluoroacetylmethylidenhydrazino-4-propargyl-2H-1,4-benzoxazin-3-one [another name: 3,3,3-trifluoro-2-oxopropanal 1-(7-fluoro-3-oxo-4-propargyl-2H-1,4-benzoxazin-6-ylhydrazone)], m.p. 190.6° C. (decomp.).

reactant | sodium acetate | 97.2 mmol, 8.0 g | C(C)(=O)[O-].[Na+]
reactant | 1,1-dibromo-3,3,3-trifluoroacetone | BrC(C(=O)C(F)(F)F)Br | C3HBr2F3O
reactant | 7-fluoro-6-hydrazino-4-propargyl-2H-1,4-benzoxazin-3-one | 18.7 mmol, 4.4 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1NN | C11H10FN3O2
solvent | water | 50 ml | O | H2O
product | 7-fluoro-6-trifluoroacetylmethylidenhydrazino-4-propargyl-2H-1,4-benzoxazin-3-one | 18.37 mmol, 6.3 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1NN=CC(C(F)(F)F)=O | C14H9F4N3O3
